US04053601
A solution of 6-(2-t-butyloxycarbonylhydrazino)-3-[2-(2,3-epoxypropoxy)-4-methoxyphenyl]pyridazine and t-butylamine in methanol was allowed to stand at room temperature for 48 hours. Evaporation of the reaction mixture gave 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-(2-t-butyloxycarbonylhydrazino)pyridazine.

reactant | 6-(2-t-butyloxycarbonylhydrazino)-3-[2-(2,3-epoxypropoxy)-4-methoxyphenyl]pyridazine | C(C)(C)(C)OC(=O)NNC1=CC=C(N=N1)C1=C(C=C(C=C1)OC)OCC1CO1 | C19H24N4O5
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
solvent | methanol | CO | CH4O
product | 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-(2-t-butyloxycarbonylhydrazino)pyridazine | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C=1N=NC(=CC1)NNC(=O)OC(C)(C)C)O | C23H35N5O5
